US03983243
To 10 g. of 3,7,10,11-tetramethyl-2,6,10-dodecatrienoic acid and 3.8 ml. of absolute pyridine in 80 ml. of absolute diethyl ether, 5.4 ml. of thionyl chloride were added dropwise under cooling. The reaction mixture was continually stirred for 75 minutes at 0°-2°C. Thereafter, the resulting mixture was filtered with precipitated pyridine hydrochloride and the filtrate was evaporated under vacuum. After evaporation, the residue was mixed into 20 ml. of absolute benzene. To this reaction mixture there was added dropwise 3.9 g. of phenol and 3.8 ml. of absolute pyridine in 170 ml. of absolute benzene. This addition was carried out dropwise. The resulting reaction mixture was continually stirred at room temperature for 2 hours. After this period, the reaction mixture was poured over dilute ice-cold hydrochloric acid and exhaustively extracted with benzene. The combined benzene extracts were diluted with an aqueous sodium bicarbonate solution. After this, the dilute extract is washed with a saturated sodium chloride solution and dried over sodium sulfate and evaporated. By chromatography on Kieselgel with hexane/diethyl ether (95:5 parts by volume) there is obtained pure 3,7,10,11-tetramethyl-2,6,10,-dodecatrienoic acid phenyl ester; b.p. 135°-140°C./0.001 mmHg (bulb tube distillation).

reactant | 3,7,10,11-tetramethyl-2,6,10-dodecatrienoic acid | CC(=CC(=O)O)CCC=C(CCC(=C(C)C)C)C | C16H26O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | diethyl ether | C(C)OCC | C4H10O
product | 3,7,10,11-tetramethyl-2,6,10,-dodecatrienoic acid phenyl ester | C1(=CC=CC=C1)OC(C=C(CCC=C(CCC(=C(C)C)C)C)C)=O | C22H30O2
